US07148236B2
(i) 2,3-dichloro-N-methyl-6-nitroaniline
2,3-dichloro-6-nitroaniline (1.026 g, 5 mmole), was suspended in toluene (10 ml). To this vigorously stirred suspension was added 50% aqueous sodium hydroxide solution (1.7 g), tertiary-butyl ammonium chloride (0.07 g, 0.25 mmole) and dimethyl sulfate (0.51 ml, 5.4 mmole). After 4 hr stirring at room temperature the intense red solution was washed with water, brine, dried with magnesium sulfate, filtered, evaporated in vacuo. Weight=1.03 g, m.p.=82° C.

reactant | 2,3-dichloro-6-nitroaniline | 5 mmole, 1.026 g | ClC1=C(N)C(=CC=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | sodium hydroxide | 1.7 g | [OH-].[Na+]
reactant | tertiary-butyl ammonium chloride | 0.25 mmole, 0.07 g | [Cl-].C(C)(C)(C)[NH3+]
reactant | dimethyl sulfate | 5.4 mmole, 0.51 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dichloro-N-methyl-6-nitroaniline | ClC1=C(NC)C(=CC=C1Cl)[N+](=O)[O-] | C7H6Cl2N2O2
